US07820823B2
9-(4-{4-[(5S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-8-fluoro-3-methyl-6-oxo-2,3-dihydro-6H-1-oxa-3,3a-diaza-phenalene-5-carboxylic Acid Ethyl Ester
A solution of 100 mg 8,9-difluoro-3-methyl-6-oxo-2,3-dihydro-6H-1-oxa-3,3a-diaza-phenalene-5-carboxylic acid ethyl ester (0.32 mmol) and 216 mg of N-[{(5S)-3[3-fluoro-4-(1-piperazinyl)phenyl]-2-oxo-5-oxazolidinyl}-methyl]-acetamide (0.64 mmol) were dissolved in a mixture of 1 ml pyridine and 1 ml DMSO. The reaction was monitored by TLC. The DMSO was evaporated, the residue digested in water and the solid collected. The solid was purified by chromatography, using a 9/1 dichloromethane/methanol mixture as eluent.

reactant | 8,9-difluoro-3-methyl-6-oxo-2,3-dihydro-6H-1-oxa-3,3a-diaza-phenalene-5-carboxylic acid ethyl ester | 0.32 mmol, 100 mg | C(C)OC(=O)C1=CN2N(COC=3C(=C(C=C(C1=O)C32)F)F)C | C14H12F2N2O4
reactant | N-[{(5S)-3[3-fluoro-4-(1-piperazinyl)phenyl]-2-oxo-5-oxazolidinyl}-methyl]-acetamide | 0.64 mmol, 216 mg | FC=1C=C(C=CC1N1CCNCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C16H21FN4O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 9-(4-{4-[(5S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-8-fluoro-3-methyl-6-oxo-2,3-dihydro-6H-1-oxa-3,3a-diaza-phenalene-5-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CN2N(COC=3C(=C(C=C(C1=O)C32)F)N3CCN(CC3)C3=C(C=C(C=C3)N3C(O[C@H](C3)CNC(C)=O)=O)F)C | C30H32F2N6O7
